US07354932B2
To a solution of 2-formyl-4,5,6,7-tetrahydro-benzoimidazole-1-sulfonic acid dimethylamide (0.3991 g, 1.5 mmol) and 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione (0.4424 g, 1.3 mmol) in CH2Cl2 (13 mL) was added sodium triacetoxyborohydride (0.5539 g, 2.6 mmol), and the reaction stirred at room temperature for 22 hours. Saturated NaHCO3 (20 mL) was added and the aqueous phase was extracted with CH2Cl2 (2×100 mL), and the combined organic extracts were washed with brine (1×75 mL), dried (NaSO4), and concentrated. Purification of the crude material by column chromatography on silica gel (33:1:1 CH2Cl2—MeOH—NH4OH) provided 0.4564 g (52%) of 2-{[[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-4,5,6,7-tetrahydro-benzoimidazole-1-sulfonic acid dimethylamide as a yellow foam. 1H NMR (CDCl3) δ 1.28 (t, 2H, J=9 Hz), 1.49-1.52 (m, 2H), 1.74-1.81 (m, 6H), 1.91-2.00 (m, 1H), 2.11-2.20 (m, 1H), 2.50-2.73 (m, 7H), 2.92 (s, 2H), 2.95 (s, 4H), 3.52-3.57 (m, 2H), 4.17-4.22 (m, 2H), 4.32-4.37 (m, 1H), 4.81 (s, 1H), 6.95-6.98 (m, 1H), 7.27-7.28 (m, 1H), 7.68-7.70 (m, 2H), 7.79-7.82 (m, 2H), 8.32 (d, 1H, J=3 Hz).

reactant | 2-formyl-4,5,6,7-tetrahydro-benzoimidazole-1-sulfonic acid dimethylamide | 1.5 mmol, 0.3991 g | CN(S(=O)(=O)N1C(=NC2=C1CCCC2)C=O)C | C10H15N3O3S
reactant | 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione | 1.3 mmol, 0.4424 g | N1=CC=CC=2CCCC(C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | sodium triacetoxyborohydride | 2.6 mmol, 0.5539 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 13 mL | C(Cl)Cl | CH2Cl2
product | 2-{[[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-4,5,6,7-tetrahydro-benzoimidazole-1-sulfonic acid dimethylamide | 0.4564 g, 52% | CN(S(=O)(=O)N1C(=NC2=C1CCCC2)CN(C2CCCC=1C=CC=NC21)CCCCN2C(C1=CC=CC=C1C2=O)=O)C | C31H38N6O4S
